US07491710B2
1.0 g of 5-benzyloxy-3-[1-tert-butoxycarbonyl-5-(2-morpholin-4-ylethoxy)-1H-indol-2-yl]indazole-1-carboxylic acid tert-butyl ester are stirred at ambient temperature for 18 hours in 6 ml of a 4M hydrochloric acid solution in dioxane. The product is filtered through sintered glass, and rinsed with dioxane to obtain 692.4 mg of 5-benzyloxy-3-[5-(2-morpholin-4-ylethoxy)-1H-indol-2-yl]-1H-indazole.

reactant | 5-benzyloxy-3-[1-tert-butoxycarbonyl-5-(2-morpholin-4-ylethoxy)-1H-indol-2-yl]indazole-1-carboxylic acid tert-butyl ester | 1.0 g | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)C=1N(C2=CC=C(C=C2C1)OCCN1CCOCC1)C(=O)OC(C)(C)C | C38H44N4O7
reactant | hydrochloric acid | 4M | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-benzyloxy-3-[5-(2-morpholin-4-ylethoxy)-1H-indol-2-yl]-1H-indazole | 692.4 mg | C(C1=CC=CC=C1)OC=1C=C2C(=NNC2=CC1)C=1NC2=CC=C(C=C2C1)OCCN1CCOCC1 | C28H28N4O3
